US08426604B2
2-(Allyl-methyl-amino)-thiazol-4-one was prepared from 2-methylsulfanyl-thiazol-4-one and allyl-methyl-amine following General Procedure E.

reactant | 2-methylsulfanyl-thiazol-4-one | CSC=1SCC(N1)=O | C4H5NOS2
reactant | allyl-methyl-amine | C(C=C)NC | C4H9N
product | 2-(Allyl-methyl-amino)-thiazol-4-one | C(C=C)N(C=1SCC(N1)=O)C | C7H10N2OS
